US03985755
A. 2-(2-pyridinyl)benzoxazole
A mixture of o-aminophenol (10.9 g, 0.1 mole), picolinic acid (12.3 g, 0.1 mole) and polyphosphoric acid (275 g) is heated under a nitrogen atmosphere at 210° C for 3 hours. The mixture is then cooled to 160° C and slowly poured into 1 liter of water. The mixture is neutralized with 50% sodium hydroxide solution yielding 15.4 g of the title compound as a crystalline solid, melting point 105°-107° C.

reactant | o-aminophenol | 0.1 mole, 10.9 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | picolinic acid | 0.1 mole, 12.3 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 1 liter | O | H2O
product | 2-(2-pyridinyl)benzoxazole | 15.4 g | N1=C(C=CC=C1)C=1OC2=C(N1)C=CC=C2 | C12H8N2O
